US07427635B2
To a solution of the (S)-3-((2S,3R)-2-azido-3-phenyl-butyryl)-4-phenyl-oxazolidin-2-one (595 mg, 1.7 mmol) in ethyl acetate (25 mL) was added di-tert-butyl dicarbonate (815 mg, 3.7 mmol) followed by 10% palladium on carbon (90 mg). The mixture was hydrogenated overnight at atmospheric pressure and room temperature. The mixture was filtered through celite and the solvent was removed to give [(1S,2R)-1-((S)-2-oxo-4-phenyl-oxazolidine-3-carbonyl)-2-phenyl-propyl]-carbamic acid tert-butyl ester as an oil (710 mg, 99%).

reactant | (S)-3-((2S,3R)-2-azido-3-phenyl-butyryl)-4-phenyl-oxazolidin-2-one | 1.7 mmol, 595 mg | N(=[N+]=[N-])[C@H](C(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O)[C@H](C)C1=CC=CC=C1 | C19H18N4O3
reactant | di-tert-butyl dicarbonate | 3.7 mmol, 815 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 90 mg | [Pd] | Pd
product | [(1S,2R)-1-((S)-2-oxo-4-phenyl-oxazolidine-3-carbonyl)-2-phenyl-propyl]-carbamic acid tert-butyl ester | 710 mg, 99% | C(C)(C)(C)OC(N[C@@H]([C@H](C)C1=CC=CC=C1)C(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O)=O | C24H28N2O5
